US05830873
2' -[2,3,6-Tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranosyloxy]-6'-hydroxyacetophenone (1541 mg) and benzo[b]thiophene-5-carbaldehyde (389 mg) are treated in the same manner as in Example 1 to give 2'-[4-O-(α-D-glucopyranosyl)-β-D-glucopyranosyloxy]-6'-hydroxy-3-(5-benzo[b]thienyl)propiophenone (645 mg).

reactant | 2' -[2,3,6-Tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranosyloxy]-6'-hydroxyacetophenone | 1541 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)COC(C)=O)OC1=C(C(=CC=C1)O)C(C)=O | C34H42O20
reactant | benzo[b]thiophene-5-carbaldehyde | 389 mg | S1C2=C(C=C1)C=C(C=C2)C=O | C9H6OS
product | 2'-[4-O-(α-D-glucopyranosyl)-β-D-glucopyranosyloxy]-6'-hydroxy-3-(5-benzo[b]thienyl)propiophenone | 645 mg | [C@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@H]1[C@@H]([C@H]([C@@H](O[C@@H]1CO)OC1=C(C(=CC=C1)O)C(CCC1=CC2=C(SC=C2)C=C1)=O)O)O | C29H34O13S
